US07504389B2
To a suspension of 2-bromo-5-methyl benzoic acid (1.0 g, 0.00465 mole) in dry dichloromethane (10 mL ) was added oxalylchloride (1.22 mL, 0.013 mole) dropwise at 0° C. followed by 1-2 drops of N,N-dimethyl formamide. The reaction mixture was then stirred for 2 hours at room temperature and the solvents were evaporated and the product dried under vacuum to yield 2-bromo-5-methylbenzoyl chloride which was used for the next step. To a precooled solution of 2-bromo-5-methyl benzoyl chloride in toluene (5 mL) was slowly added a pre-cooled solution of triethylphosphite (1.05 mL, 0.00604 mole) in toluene. The reaction was then left at room temperature for overnight. The solvents were then evaporated on a rotovap. The resultant product was diluted with dichloromethane (50 mL), washed with saturated sodium bicarbonate (NaHCO3, 25 mL), and then dried over magnesium sulfate (MgSO4). Filtration and solvent evaporation provided 1.1 g of product. Flash chromatography on silica gel using 0%-5% ethyl acetate/dichloromethane followed by drying of the product under high vacuum afforded 0.900 g of (2-bromo-5-methylbenzoyl)phosphonic acid diethyl ester.

reactant | 2-bromo-5-methyl benzoic acid | 0.00465 mole, 1.0 g | BrC1=C(C(=O)O)C=C(C=C1)C | C8H7BrO2
reactant | oxalylchloride | 0.013 mole, 1.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethyl formamide | 1-2 drops | CN(C=O)C | C3H7NO
product | 2-bromo-5-methylbenzoyl chloride | BrC1=C(C(=O)Cl)C=C(C=C1)C | C8H6BrClO
